US08084457B2
To a solution of 4-amino, 2-nitrophenol (1 mmol), triphenyl phosphine (1.2 mmol) and benzyl alcohol (1.2 mmol) in dry dichloromethane (5 ml) at ambient temperature, under a nitrogen atmosphere, was added a solution of diethyl azodicarboxylate (1.2 mmol) in dry dichloromethane (2 ml). The resultant mixture was stirred at ambient temperature for 18 hr. Evaporation under reduced pressure afforded a gum that was purified by column chromatography (SiO2; diethyl ether) to give 4-benzyloxy-3-nitro-aniline, yield 85%.

reactant | 2-nitrophenol | 1 mmol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | triphenyl phosphine | 1.2 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl alcohol | 1.2 mmol | C(C1=CC=CC=C1)O | C7H8O
reactant | diethyl azodicarboxylate | 1.2 mmol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-benzyloxy-3-nitro-aniline | yield 85% | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)[N+](=O)[O-] | C13H12N2O3
